US09084794B2
b) 2-(4-(3-cyanoquinolin-7-yl)-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (125 mg, 0.28 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (72 mg, 0.28 mmol) in 1,4-dioxane (2.0 mL) was added potassium acetate (61 mg, 0.63 mmol) and PdCl2(dppf)-CH2Cl2 adduct (23 mg, 0.03 mmol). The reaction mixture was purged with nitrogen and heated at 120° C. for 4 h. The reaction mixture was cooled and 7-bromoquinoline-3-carbonitrile (66.2 mg, 0.28 mmol) and 2M aq K2CO3 (0.3 mL, 0.6 mmol) were added. The reaction mixture was purged with nitrogen and heated with stirring at 100° C. for 1 h. The cooled reaction mixture was diluted with dichloromethane (60 mL) and salts were filtered away. The organic mixture was filtered through a plug of celite and sodium sulfate and the filtrate was treated with a small amount of Silicycle Si-thiol resin for 30 min. The mixture was filtered and concentrated in vacuo. The residue was purified by reverse phase HPLC (10-70% acetonitrile:water with 0.1% NH4OH) and the appropriate fractions were collected, combined and concentrated in vacuo to give expected product as a racemate (87 mg, 60%). Chiral HPLC was performed on this material in Example 63a. MS(ES)+ m/e 514 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 0.56-0.66 (m, 2 H) 0.75-0.87 (m, 2 H) 1.64-1.70 (m, 1 H) 1.72-1.77 (m, 1 H) 1.85-1.97 (m, 2 H) 2.31 (td, J=11.24, 2.53 Hz, 1 H) 2.56-2.61 (m, 1 H) 2.62-2.74 (m, 2 H) 2.77-2.86 (m, 1 H) 3.15 (s, 2 H) 4.00 (d, J=2.02 Hz, 2 H) 4.55 (s, 1 H) 5.65 (d, J=4.29 Hz, 1 H) 7.27 (d, J=4.04 Hz, 1 H) 7.49 (t, J=7.71 Hz, 1 H) 7.56 (d, J=1.77 Hz, 1 H) 7.65 (dd, J=7.96, 1.89 Hz, 1 H) 8.00 (dd, J=8.34, 1.77 Hz, 1 H) 8.06 (d, J=8.34 Hz, 1 H) 8.39-8.47 (m, 1 H) 8.63 (dd, J=2.02, 0.76 Hz, 1 H) 9.10 (d, J=2.27 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.28 mmol, 125 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.28 mmol, 72 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.63 mmol, 61 mg | C(C)(=O)[O-].[K+]
reactant | 7-bromoquinoline-3-carbonitrile | 0.28 mmol, 66.2 mg | BrC1=CC=C2C=C(C=NC2=C1)C#N | C10H5BrN2
reactant | K2CO3 | 0.6 mmol, 2M, 0.3 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | PdCl2(dppf) CH2Cl2 | 0.03 mmol, 23 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 2-(4-(3-cyanoquinolin-7-yl)-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | C(#N)C=1C=NC2=CC(=CC=C2C1)C1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C29H28FN5O3
